### PR TITLE
Core algebra

### PR DESCRIPTION
**Pull request by Gedol**
Temporary pull request, hopefully it creates an easy diff for you to review. The new code adds Monoid, Group in axioms and Z2Group in models.

One note:
1. The new branch core_algebra is tracking new-ord but is not up-to-date. The issues (emailed you about) is that code like 

private module AA where
  open import net.cruhland.axioms.AbstractAlgebra.Base public

in agda-axiomatic\src\net\cruhland\axioms\AbstractAlgebra\Injective.agda

Is not loading in my agda environment (possibly due to version issues).

### CODE REVIEW

File: src/net/cruhland/axioms/CoreAlgebra/Monoid.agda [hunk 1]
```diff
@@ -0,0 +1,20 @@
+module net.cruhland.axioms.CoreAlgebra.Monoid where
+
+import net.cruhland.axioms.AbstractAlgebra as AA
+open import net.cruhland.axioms.Eq as Eq using (_≃_; Eq)
+  
+record Monoid (G : Set) : Set₁ where
+  infix 7 _⊙_
+  field
+    {{eq}} : Eq G  -- includes reflexive, symmetric, and transitive properties
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Monoid.agda]: I recommend moving this into the record parameters:

```agda
record Monoid (G : Set) {{_ : Eq G}} : Set₁ where
```

This is because `Eq G` is usually only a property of `G`, and doesn't change with different `Monoid G` implementations. And if you already have an instance of `Eq G` defined somewhere, and then try to use an instance of `Monoid G` which has an `{{eq}} : Eq G` field, the two `Eq` instances will conflict (even if they resolve to the same implementation). Putting it into the parameters will avoid introducing a conflicting instance.

File: src/net/cruhland/axioms/CoreAlgebra/Monoid.agda [hunk 2]
```diff
@@ -0,0 +1,20 @@
...
+    identity : G
+
+    -- properties of composition
+    {{⊙-substitutive}} : AA.Substitutive² {A = G} _⊙_ _≃_ _≃_  -- Eq subst with ⊙
+    {{⊙-associative}} : AA.Associative {A = G} _⊙_
+
+    -- proof of identity
+    {{is-identity}} : AA.Identity² {A = G} _⊙_ identity
+
+open Monoid public   -- this puts _⊙_ into scope
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Monoid.agda]: You probably want to say `open Monoid {{...}} public` here. This will bring `_⊙_` and `identity` into scope with `Monoid` as an instance argument. Otherwise, you'd need to explicitly pass a `Monoid` record as an argument when calling those functions, or do an explicit `open Monoid M using (_⊙_; identity)`. You're doing something like that in `Group.agda`, I'll leave a comment showing an alternative.

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 3]
```diff
@@ -0,0 +1,43 @@
+open import net.cruhland.axioms.CoreAlgebra.Monoid using (Monoid)
+
+module net.cruhland.axioms.CoreAlgebra.Group (G : Set) (M : Monoid G) where
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: It'll be more convenient to put these parameters on the `Group` record instead:

```agda
record Group (G : Set) {{_ : Eq G}} {{_ : Monoid G}} : Set₁ where
```

You may start needing to move other fields, like `_⊙_` and `identity` into the parameters for `Monoid` as well, if there are multiple instances of `Monoid` for a type `G`. Otherwise Agda won't be able to determine a unique instance.

Alternatively, if instances start to become a pain, you could make `Monoid` a normal parameter so that it must always be explicitly given.

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+
+import net.cruhland.axioms.AbstractAlgebra as AA
+
+open import net.cruhland.axioms.Eq as Eq using (_≃_; sym)
+open import net.cruhland.models.Function using (const)
+open import net.cruhland.models.Logic using (⊤)
+open Eq.≃-Reasoning
+
+private open module M = Monoid M using (_⊙_; identity)
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: You should be able to drop this line if you're using `Monoid` as an instance. Then you'd just need to update the import at the top of the file:

```agda
open import net.cruhland.axioms.CoreAlgebra.Monoid using (_⊙_; identity; Monoid)
```

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 5]
```diff
@@ -0,0 +1,43 @@
...
+
+record Group : Set₁ where
+  field
+    invert_ : G → G
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: I don't think you need the underscore here? Defining `invert : G → G` as a normal function should work fine.

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 6]
```diff
@@ -0,0 +1,43 @@
...
+    {{is-inverse}} : AA.Inverse² invert_ (const ⊤) (_⊙_) (identity)
+
+  -- Group properties
+  instance
+    -- invert_ is well-defined.
+    inverse-substitutive : AA.Substitutive₁ {A = G} invert_ _≃_ _≃_
+    inverse-substitutive = AA.substitutive₁ λ {x → helper x}
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: I think you can replace `λ {x → helper x}` with just `helper`? Did Agda give you an error?

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 7]
```diff
@@ -0,0 +1,43 @@
...
+      where
+        helper : {a : G} → {b : G} → (a ≃ b) → (invert a ≃ invert b)
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: Nitpick: You can combine arguments with the same type: `{a b : G}`

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 8]
```diff
@@ -0,0 +1,43 @@
...
+        helper {a} {b} x =
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: Recommend using a more readable name for `x`, e.g. `a≃b`

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 9]
```diff
@@ -0,0 +1,43 @@
...
+          begin
+            invert a
+          ≃˘⟨ AA.ident ⟩
+            (invert a) ⊙ identity
+          ≃˘⟨ AA.subst₂ AA.inv ⟩
+            invert a ⊙ (b ⊙ invert b)
+          ≃˘⟨ AA.assoc ⟩
+            (invert a ⊙ b ) ⊙ invert b
+          ≃⟨ AA.subst₂ ( AA.subst₂ (sym x) ) ⟩
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: You can avoid an explicit call to `sym` here by using the "swap" symbol on the equals sign:

```agda
≃˘⟨ AA.subst₂ (AA.subst₂ x) ⟩
```

File: src/net/cruhland/axioms/CoreAlgebra/Monoid.agda (hunk 2 above)
Comment (cruhland) [reply src/net/cruhland/axioms/CoreAlgebra/Monoid.agda]: And actually, it's even better to limit exactly which fields you make public:

```agda
open Monoid {{...}} public using (_⊙_; identity)
```

File: src/net/cruhland/axioms/CoreAlgebra/Group.agda [hunk 10]
```diff
@@ -0,0 +1,43 @@
...
+            (invert a ⊙ a ) ⊙ invert b
+          ≃⟨ AA.subst₂ AA.inv ⟩
+            identity ⊙ invert b
+          ≃⟨ AA.ident ⟩
+            invert b
+          ∎
+          
+open Group public
```
Comment (cruhland) [inline src/net/cruhland/axioms/CoreAlgebra/Group.agda]: You probably should enable instance usage here (see my similar comment for `Monoid`):

```agda
open Group {{...}} public using (invert_)
```

File: src/net/cruhland/models/Z2Group.agda [hunk 11]
```diff
@@ -0,0 +1,110 @@
...
+    opEqSubstᴸ = AA.substitutive₂ λ {_ _ b} → cong (_⊕ b)
+
+    opEqSubstᴿ : AA.Substitutive₂ AA.handᴿ _⊕_ _≡_ _≡_
+    opEqSubstᴿ = AA.substitutive₂ λ {_ _ b} → cong (b ⊕_)
+
+  opEqSubst : AA.Substitutive² _⊕_ _≡_ _≡_
+  opEqSubst = AA.substitutive² {A = Z2Set}
+
+  opAssociative : AA.Associative _⊕_
+  opAssociative = record { assoc = opassoc }
```
Comment (cruhland) [inline src/net/cruhland/models/Z2Group.agda]: I think I added a constructor for `Associative`, so you should be able to say `AA.associative opassoc` here.
